US08492388B2
To a stirred solution of 3-(dimethylamino)benzoic acid (16.5 g, 100 mmol), cooled to 0° C. with a brine/ice bath, was added N,N-dimethylformamide (0.39 mL, 5 mmol) followed by oxalyl chloride (10.5 mL, 120 mmol). The resulting mixture was stirred 4 h at room temperature, until gas evolution stopped and a clear solution was obtained. The mixture was cooled to 0° C. with a brine/ice bath, N,O-Dimethylhydroxylamine (13.7 g, 140 mmol) was added at once, followed by dropwise addition of triethylamine (55.8 mL, 400 mmol) through a dropping funnel, while keeping the internal temperature under 20° C. The resulting suspension was stirred overnight at room temperature, then washed with brine. The aqueous layers were extracted with dichloromethane (2×50 mL), then the combined organic layers were dried over MgSO4 and concentrated in vacuo to afford 3-(dimethylamino)-N-methoxy-N-methylbenzamide as an oil [15.5 g, yield 67%; HPLC/MS:m/z=209 (M+H); log P(HCOOH)=0.95].

reactant | 3-(dimethylamino)benzoic acid | 100 mmol, 16.5 g | CN(C=1C=C(C(=O)O)C=CC1)C | C9H11NO2
reactant | N,N-dimethylformamide | 5 mmol, 0.39 mL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 120 mmol, 10.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,O-Dimethylhydroxylamine | 140 mmol, 13.7 g | CNOC | C2H7NO
reactant | triethylamine | 400 mmol, 55.8 mL | C(C)N(CC)CC | C6H15N
product | 3-(dimethylamino)-N-methoxy-N-methylbenzamide | yield 67% | CN(C=1C=C(C(=O)N(C)OC)C=CC1)C | C11H16N2O2
